US09193693B2
Step 1. (R)-methyl 2-phenyl-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv), (R)-2-(trifluoromethyl)pyrrolidine (95 mg, 0.68 mmol, 2.36 equiv), n-BuOH (1.5 mL). The resulting solution was stirred for 3 days at 110° C. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 30 mg (26%) of (R)-methyl 2-phenyl-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | (R)-2-(trifluoromethyl)pyrrolidine | 0.68 mmol, 95 mg, 2.36 equiv | FC([C@@H]1NCCC1)(F)F | C5H8F3N
solvent | n-BuOH | 1.5 mL | CCCCO | C4H10O
product | (R)-methyl 2-phenyl-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylate | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C(F)(F)F)C(=O)OC | C21H18F3N3O2
